US07615562B2
Step B: 2-(4-Methoxy-butyl)-thiophene
A solution of 4-thiophen-2-yl-butan-1-ol (4.55 g, 29.09 mmol) in 20 ml of THF was carefully added to a stirred suspension of oil-free sodium hydride (1.05 g, 43.75 mmol) in 15 ml of THF. When the addition was complete, the mixture was heated to 50° C. and stirring continued for 1 hour. Iodomethane (2.7 ml, 43.75 mmol) was then added and the turbid solution was stirred at 50° C. for another 2 hours. After cooling, a few drops of water were added and the mixture was partitioned between 1N-HCl and ether. The organic layer was washed with saturated sodium bicarbonate solution and brine. Drying over sodium sulfate and careful evaporation (product is volatile) gave a pale yellow oil. Yield: 4.45 g (90%).

reactant | 4-thiophen-2-yl-butan-1-ol | 29.09 mmol, 4.55 g | S1C(=CC=C1)CCCCO | C8H12OS
reactant | sodium hydride | 43.75 mmol, 1.05 g | [H-].[Na+]
reactant | Iodomethane | 43.75 mmol, 2.7 ml | IC | CH3I
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
catalyst | water | a few drops | O | H2O
product | 2-(4-Methoxy-butyl)-thiophene | COCCCCC=1SC=CC1 | C9H14OS
